US05166214
Part B. To a solution of lithium aluminum hydride (6.7 g, 0.176 mol) in dry tetrahydrofuran (300 mL), a solution of N-heptyl-5-hydroxypentanamide (19.0 g, 0.088 mol) in dry tetrahydrofuran (100 mL) under a nitrogen atmosphere was added dropwise. The reaction mixture was heated to reflux for 18 hours, allowed to cool to room temperature and was poured slowly into a stirred mixture of 10% aqueous sodium sulfate (400 mL) and ice (200 mL). The resulting slurry was filtered through a bed of Celite® and the filtrate was extracted with ethyl acetate (2×500 mL). The combined organic layer was washed with water, brine, dried over magnesium sulfate and concentrated to give a viscous yellow oil. The product was crystallized from hexane to give N-(5-hydroxypentyl)-N-heptylamine (15.2 g, 0.075 mol) as a white powder, mp 47°-8°. 1H NMR (CDCl3) δ3.63(t,2H), 2.63(q,4H), 2.39(bs,2H), 1.66-1.24(m,16H), 0.905(t,3H).

reactant | lithium aluminum hydride | 0.176 mol, 6.7 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N-heptyl-5-hydroxypentanamide | 0.088 mol, 19.0 g | C(CCCCCC)NC(CCCCO)=O | C12H25NO2
reactant | sodium sulfate | 400 mL | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | N-(5-hydroxypentyl)-N-heptylamine | 0.075 mol, 15.2 g | OCCCCCNCCCCCCC | C12H27NO
